* D:\daniel\projects\power_supply\hardware\simulations\output_stage2_simuasc.asc
* Generated by LTspice 24.1.4 for Windows.
M1 Vout N011 Vsup Vsup Si7469DP
R1 N011 N010 500
R2 Vsup N011 10k
R3 Vout N012 1k
R4 N007 N006 1k
R6 N006 N013 40k
R7 N013 0 10k
R8 N009 N008 1k
R9 N013 N005 1k
V4 N008 0 PULSE(0 1.2 1m 0.2m 1n 100)
C3 Vout 0 330µ V=50 Irms=1.404 Rser=0.084 Lser=4.3n mfg="Würth Elektronik" pn="860160675028 WCAP-ATLL 10x25" type="Al electrolytic"
V1 N004 0 11
V3 SW 0 PULSE(0 12 0 10n 10n 1.96u 5u)
C4 Vout 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C5 Vout 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C7 N003 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C8 N003 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C1 Vout 0 330µ V=50 Irms=1.404 Rser=0.084 Lser=4.3n mfg="Würth Elektronik" pn="860160675028 WCAP-ATLL 10x25" type="Al electrolytic"
C6 N003 0 330µ V=50 Irms=1.404 Rser=0.084 Lser=4.3n mfg="Würth Elektronik" pn="860160675028 WCAP-ATLL 10x25" type="Al electrolytic"
C9 N003 0 330µ V=50 Irms=1.404 Rser=0.084 Lser=4.3n mfg="Würth Elektronik" pn="860160675028 WCAP-ATLL 10x25" type="Al electrolytic"
L5 Vsup N003 4.7µ Ipk=15.3 Rser=9.4m Rpar=0 Cpar=0
C11 Vsup 0 630µ V=50 Irms=1.404 Rser=0.084 Lser=4.3n mfg="Würth Elektronik" pn="860160675028 WCAP-ATLL 10x25" type="Al electrolytic"
C2 Vsup 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C12 Vsup 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C10 N003 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C13 N003 0 1µ V=50 Irms=0 Rser=0.0051 Lser=500p mfg="Würth Elektronik" pn="885012210031 WCAP-CSGP 1812" type="X7R"
C14 N003 0 330µ V=50 Irms=1.404 Rser=0.084 Lser=4.3n mfg="Würth Elektronik" pn="860160675028 WCAP-ATLL 10x25" type="Al electrolytic"
X§U3 N009 N005 Vsup 0 N006 ADA4620
X§U4 N012 N007 Vsup 0 N010 ADA4620
C16 Vout 0 0.1µ V=50 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM155R71H104KE02" type="X7R"
C15 Vout 0 0.1µ V=50 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM155R71H104KE02" type="X7R"
M2 N002 SW 0 0 IPT015N10N5
C17 N001 N002 10µ Rser=10m
D1 N001 N003 RBR15BGE60A
L2 VIN N002 10µ Ipk=13 Rser=13.9m
L1 0 N001 10µ Ipk=13 Rser=13.9m
R5 VIN N004 10m
V2 Vout 0 50
.model D D
.lib C:\Users\Daniel\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Daniel\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 30m
.include D:\daniel\projects\power_supply\hardware\simulations\TSB712.mod
K1 L1 L2 1
.lib ADA4620.lib
.backanno
.end
